US09283186B2
C. Synthesis of 2,2-Dimethyl-N-(2-morpholin-4-yl-ethyl)-malonamic Acid (HCl Salt)
34.1 g 2,2-Dimethyl-N-(2-morpholin-4-yl-ethyl)-malonamic acid ethyl ester, 8.4 g potassium hydroxide, 200 ml ethanol and 4.5 ml H2O were stirred at 80° C. for 6 hours. Then most of the solvent was removed and the pH was adjusted to pH 3-4 with about 100 ml 2N HCl. The solvent was evaporated and toluol was added and then removed. To the final residue methanol was added and the suspension was filtered to remove salts. The solvent was removed and the residue was dissolved in H2O and lyophilized. The product was characterized by 1H-NMR.

reactant | 2,2-Dimethyl-N-(2-morpholin-4-yl-ethyl)-malonamic acid ethyl ester | 34.1 g | C(C)OC(C(C(=O)NCCN1CCOCC1)(C)C)=O | C13H24N2O4
reactant | potassium hydroxide | 8.4 g | [OH-].[K+]
reactant | ethanol | 200 ml | C(C)O | C2H6O
solvent | H2O | 4.5 ml | O | H2O
product | 2,2-Dimethyl-N-(2-morpholin-4-yl-ethyl)-malonamic Acid | CC(C(=O)O)(C(=O)NCCN1CCOCC1)C | C11H20N2O4
